US04525298
1. 5-Methylene-7,7-dimethyl-octyl propionate
20 mM of 5-methylene-7,7-dimethyl-octanol were mixed at room temperature under nitrogen with 4 ml of propionic anhydride and some drops of concentrated H3PO4. The mixture was taken up with ether, washed with a 2N NaOH solution, then with water until neutrality. After drying, concentration and bulb distillation the desired ester was obtained in 89%.

reactant | 5-methylene-7,7-dimethyl-octanol | 20 mM | C=C(CCCCO)CC(C)(C)C | C11H22O
reactant | propionic anhydride | 4 ml | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | H3PO4 | OP(=O)(O)O | H3O4P
solvent | ether | CCOCC | C4H10O
product | 5-Methylene-7,7-dimethyl-octyl propionate | C(CC)(=O)OCCCCC(CC(C)(C)C)=C | C14H26O2
